US08975254B2
b) 2-((Dimethylamino)methyl)thiazole-4-carboxylic acid
Ethyl 2-((dimethylamino)methyl)thiazole-4-carboxylate (147 mg, 0.686 mmol) was dissolved in THF/methanol mixture (9:1) and 1M lithium hydroxide (1.372 ml, 1.372 mmol) was added slowly. The reaction mixture was stirred at RT for 3 h, pH was adjusted to 2 and the mixture was evaporated to dryness to yield the title compound as a crude product. m/z [186.2+1].

reactant | Ethyl 2-((dimethylamino)methyl)thiazole-4-carboxylate | 0.686 mmol, 147 mg | CN(C)CC=1SC=C(N1)C(=O)OCC | C9H14N2O2S
reactant | lithium hydroxide | 1.372 mmol, 1M, 1.372 ml | [OH-].[Li+]
solvent | THF methanol | C1CCOC1.CO
product | 2-((Dimethylamino)methyl)thiazole-4-carboxylic acid | CN(C)CC=1SC=C(N1)C(=O)O | C7H10N2O2S
